US04127661
(b) 1-Phenoxy-2-propyl methane sulfonate
To 1-phenoxy-2-propanol (1 mole) dissolved in pyridine (500 ml) is added methane sulfochloride (1 mole) at a rate sufficient for the temperature of the reaction mixture to reach a value of 40°-50° C., with stirring. On completion of the addition, the reactor is sealed and the reaction mixture is left aside at room temperature during 48 hours. The reaction mixture is then poured over ice. The aqueous phase is extracted with methylene chloride. The organic phase is washed with dilute sulfuric acid and then with water to neutral pH. The resulting material is dried over sodium sulfate and concentrated, to give an oil which crystallizes. The material is taken up into ether, with stirring, to give a white precipitate which is suction filtered. M.p. = 58° C.

reactant | 1-phenoxy-2-propanol | 1 mole | O(C1=CC=CC=C1)CC(C)O | C9H12O2
reactant | methane sulfochloride | 1 mole | S(=O)(=O)(O)Cl.C
solvent | pyridine | 500 ml | N1=CC=CC=C1 | C5H5N
product | 1-Phenoxy-2-propyl methane sulfonate | CS(=O)(=O)OC(COC1=CC=CC=C1)C | C10H14O4S
